US07666871B2
(+/−)-2-(4-Butoxy-phenyl)-5-methyl-4-[2-(2-methyl-pyrrolidin-1-yl)-ethyl]-oxazole hydrocholoride salt
Starting with Toluene-4-sulfonic acid 2-[2-(4-butoxy-phenyl)-5-methyl-oxazol-4-yl]-ethyl ester [CAS 478540-91-9] and racemic 2-methylpyrrolidine, follow procedures significantly analogous to Example 8 to provide the free base of the titled compound. The free base is converted to the titled compound significantly in accordance with the procedure of Example 23. MS (m/e): 343.3 (M+1)

reactant | Toluene-4-sulfonic acid 2-[2-(4-butoxy-phenyl)-5-methyl-oxazol-4-yl]-ethyl ester | C(CCC)OC1=CC=C(C=C1)C=1OC(=C(N1)CCOS(=O)(=O)C1=CC=C(C=C1)C)C | C23H27NO5S
reactant | racemic 2-methylpyrrolidine | CC1NCCC1 | C5H11N
product | (+/−)-2-(4-Butoxy-phenyl)-5-methyl-4-[2-(2-methyl-pyrrolidin-1-yl)-ethyl]-oxazole | C(CCC)OC1=CC=C(C=C1)C=1OC(=C(N1)CCN1C(CCC1)C)C | C21H30N2O2
